// $ Spice netlist generated by v2lvs
simulator lang=spectre insensitive=yes
//  v2011.1_15.11    thu feb 10 17:20:50 pst 2011
//  global 0 gnd vcc 
//  aliasGnd ( gnd 0 ) vsource type=dc dc=0
include "/Cad/DesignK/FaradayUMC180/DigitalCore/BackEnd/lvs/fsa0a_c_generic_core.scs"

subckt sartestsarouti  ( statep\[1\] statep\[0\] sarout\[7\] sarout\[6\] sarout\[5\] 
+ sarout\[4\] sarout\[3\] sarout\[2\] sarout\[1\] sarout\[0\] clockt reset  
+ sarouti\[7\] sarouti\[6\] sarouti\[5\] sarouti\[4\] sarouti\[3\] sarouti\[2\] 
+ sarouti\[1\] sarouti\[0\] ) 


xsarouti_reg\[7\] ( n501			5001 n502 clockt n503 ) dffsbn
xsarouti_reg\[6\] ( sarouti\[6\] 5002 n504 clockt n503 ) dffsbt
xsarouti_reg\[5\] ( sarouti\[5\] 5003 n505 clockt n503 ) dffsbp 
xsarouti_reg\[4\] ( sarouti\[4\] 5004 n506 clockt n503 ) dffsbn
xsarouti_reg\[3\] ( sarouti\[3\] 5005 n507 clockt n503 ) dffsbn
xsarouti_reg\[2\] ( sarouti\[2\] 5006 n508 clockt n503 ) dffsbn
xsarouti_reg\[1\] ( sarouti\[1\] 5007 n509 clockt n503 ) dffsbn
xsarouti_reg\[0\] ( sarouti\[0\] 5008 n510 clockt n503 ) dffsbn 
xg501 ( n503 reset ) inv1s
xg502 ( sarouti\[7\] n501 ) buf6ck 
xg503 ( n502 n511 sarout\[7\] n501 n511 ) moai1s 
xg504 ( n511 statep\[1\] statep\[0\] ) xor2  
xg505 ( n504 n511 sarout\[6\] sarouti\[6\] n511 ) moai1s  
xg506 ( n505 n511 sarout\[5\] sarouti\[5\] n511 ) moai1s 
xg507 ( n506 n511 sarout\[4\] sarouti\[4\] n511 ) moai1s
xg508 ( n507 n511 sarout\[3\] sarouti\[3\] n511 ) moai1s
xg509 ( n508 n511 sarout\[2\] sarouti\[2\] n511 ) moai1s 
xg510 ( n509 n511 sarout\[1\] sarouti\[1\] n511 ) moai1s 
xg511 ( n510 n511 sarout\[0\] sarouti\[0\] n511 ) moai1s 

ends sartestsarouti
